US06432983B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[8-(1-pyrrolidinyl)octyloxyl]phenyl]methanone
1280 mg (2.2 mmol) of [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-(8-bromo-octyloxy)phenyl]methanone and 470 mg (6.6 mmol) of pyrrolidine were dissolve in 20 mL of dimethylformamide (DMF). The reaction mixture was heated to 100° C. and stirred under a nitrogen atmosphere. After 30 minutes, the reaction was allowed to cool and evaporated to dryness in vacuo. The crude product was chromatographed on a silica gel column eluted with a linear gradient begining with CHCl3 and ending with CHCl3—MeOH (19:1) (v/v). The desired fractions were determined by tlc, combined, and evaporated to dryness. This yielded 890 mg (72%) of the title compound as a tan, amorphous powder.

reactant | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-(8-bromo-octyloxy)phenyl]methanone | 2.2 mmol, 1280 mg | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCCCCCCCBr | C31H33BrO4S
reactant | pyrrolidine | 6.6 mmol, 470 mg | N1CCCC1 | C4H9N
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[8-(1-pyrrolidinyl)octyloxyl]phenyl]methanone | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCCCCCCCN2CCCC2 | C35H41NO4S
